US06355653B1
2-(2-Methyl-imidazol-1-yl)-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%):292 (M+H+,100), was prepared in accordance with the method of example 339b) from 2-methanesulfinyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine and 1,8-diazabicyclo[5.4.0]undec-7-en in 2-methylimidazole at 170° C.

reactant | 2-methanesulfinyl-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | CS(=O)C1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C12H11N5OS
reactant | 1,8-diazabicyclo[5.4.0]undec-7-en | N12CCCCCC2=NCCC1 | C9H16N2
solvent | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
product | 2-(2-Methyl-imidazol-1-yl)-7-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | CC=1N(C=CN1)C1=NN2C(C=C(C=C2N)C2=NC=CC=C2)=N1 | C15H13N7
